2130-12-24 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - per EP, 900 mg of amio over 12 hours, then 300 mg of amio over ~10
   hours, then will decide how to proceed with antiarrhythmic therapy
   - changed BB from carvedilol to metoprolol to allow room for
   uptitration
   - sedation/anxiety relief with ativan prn
   - length between VT episodes gradually increased to several hours
   separating episodes
   Allergies:
   Erythromycin/Sulfisoxazole (Oral) (Ery E-Succ/Sulfisoxazole
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2130-12-24**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 140) bpm
   BP: 107/65(75) {86/45(55) - 113/67(76)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 68 Inch
             Total In:
                                                                  1,195 mL
                                                                    301 mL
   PO:
                                                                    510 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    685 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    675 mL
   Urine:
                                                                  2,350 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,155 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   13.0 g/dL
   156 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   99 mEq/L
   137 mEq/L
   39.5 %
   12.2 K/uL
        [image002.jpg]
                            [**2130-12-23**]  12:46 PM
                            [**2130-12-23**]  09:25 PM
   WBC
   12.2
   Hct
   39.5
   Plt
   175
   Cr
   1.2
   Glucose
   156
   Other labs: PT / PTT / INR:22.8/24.3/2.2, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   64 y/o M with a history Ichemic CM with a history of VTach s/p ICD
   placement, s/p three prior ablations presented on [**12-21**] s/p ICD firing
   x6, now transferred to CCU for recurrent VT, hypotension, and
   amiodarone gtt.
   .
   # Rhythm: Patient with three failed VT ablations in past. Pt's
   Interrogation revealed slow VT, but appropriate fire of ICD. The
   patient has failed medical management of with Mexiletine/Tikosyn and
   plan had been to switch to dronedarone but pt has not been able to get
   insurance approval of dronedarone. With recurrent episode on the floor,
   Amiodarone was added. This event is consistent with history of scar and
   not new ischemia as discussed with EP.
   - continue amiodarone gtt for now with goal of 900mg in 12 hours, then
   switch to po dosing, consider switch to dronedarone in future
   - check LFTs with amiodarone, now loaded will convert to PO per EP rec.
   - discontinue Mexiletine/Tikosyn
   - plan for VT ablation on [**2130-12-26**]
   - monitor [**Hospital1 **] lytes and keep Mg >2, K >4
   - keep pads on chest
   - will monitor BP closely
   .
   # Pump: Mildly volume overloaded on examination. Patient has ichemic
   dilated CM with low EF of 15%.  Did require 1.3L NS bolus in the
   setting of recent VT on the floor and.
   - Continue Toresmide 60mg daily, consider additional 40mg if BP can
   tolerate after amiodarone gtt
   - Continue BB, eplerenone, ACE
   - strict I/Os, daily weights, goal I/O even
   - d/c comadin
   - uptitrate BB, cut back on ACEI if BP does not tolerate.
   .
   # Coronaries: Patient's CM is related to ischemia, however no cath
   reports are avail to determine coronary anatomy. CAD s/p CABG x 5 '[**18**]
   - Continue Statin, BB, ASA as tolerated
   .
   # HTN:New hypotension in setting of VT.
   - Cont Coreg, Ramipril, Eplerenone with strict holding parameters
   .
   # HPL: Cont statin
   .
   # COPD: Continue inhalers prn
   .
   # FEN: heart healthy, low salt diet, NPO overnight into monday for
   possible procedure
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with Coumadin
   .
   # CODE: full
   .
   # CONTACT: [**Name (NI) 4198**] [**Telephone/Fax (1) 9960**]
   .
   # DISPO: CCU until ablation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2130-12-23**] 11:15 AM
   20 Gauge - [**2130-12-23**] 12:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-25 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Amiodarone dose increased to 1.25mg/min  x 10 hrs and then dropped to
   0.5 mg until 7am Sunday. Restarted on 0.5 mg later in morning-but again
   [**6-14**] successive episiodes   of VT shocked out from ICD- so rebolused w
   150 mg and increased gtt to 1 mg/hr [**12-24**] Sunday.  Plan for EPS
   Tuesday.  EP fellow was aware.
   - valium 5mg Q12, then increased Metoprolol to 75mg TID.
   - NPO at midnight for EP study on tuesday.
   Allergies:
   Erythromycin/Sulfisoxazole (Oral) (Ery E-Succ/Sulfisoxazole
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2130-12-24**] 08:30 AM
   Amiodarone - [**2130-12-24**] 01:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-25**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 140) bpm
   BP: 98/56(66) {81/47(55) - 110/71(75)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 73.6 kg (admission): 74 kg
   Height: 68 Inch
             Total In:
                                                                  2,152 mL
                                                                    464 mL
   PO:
                                                                  1,310 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    842 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  3,525 mL
                                                                    300 mL
   Urine:
                                                                  3,525 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,373 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: JVP 12cm.
   CARDIAC: PMI laterally displaced, RR, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: CTAB, few crackles at bases bilaterally.
   ABDOMEN: Soft, NT. Mild abdominal distention. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   164 K/uL
   12.7 g/dL
   108 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.0 mEq/L
   19 mg/dL
   99 mEq/L
   136 mEq/L
   36.2 %
   10.2 K/uL
        [image002.jpg]
                            [**2130-12-23**]  12:46 PM
                            [**2130-12-23**]  09:25 PM
                            [**2130-12-24**]  06:06 AM
                            [**2130-12-24**]  12:25 PM
                            [**2130-12-25**]  04:26 AM
   WBC
   12.2
   9.0
   10.2
   Hct
   39.5
   37.4
   36.2
   Plt
   175
   174
   164
   Cr
   1.2
   1.1
   1.1
   1.2
   Glucose
   156
   105
   133
   108
   Other labs: PT / PTT / INR:30.1/27.2/3.0, Ca++:8.9 mg/dL, Mg++:2.3
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   64 y/o M with a history Ichemic CM with a history of VTach s/p ICD
   placement, s/p three prior ablations presented on [**12-21**] s/p ICD firing
   x6, now transferred to CCU for recurrent VT, hypotension, and
   amiodarone gtt.
   .
   # Rhythm: Patient with three failed VT ablations in past. Pt's
   Interrogation revealed slow VT, but appropriate fire of ICD. The
   patient has failed medical management of with Mexiletine/Tikosyn and
   plan had been to switch to dronedarone but pt has not been able to get
   insurance approval of dronedarone. With recurrent episode on the floor,
   Amiodarone was added. This event is consistent with history of scar and
   not new ischemia as discussed with EP.
   - continue amiodarone gtt per EP recs
   - check LFTs with amiodarone
   - discontinued Mexiletine/Tikosyn
   - plan for VT ablation on [**2130-12-26**]
   - monitor [**Hospital1 **] lytes and keep Mg >2, K >4
   - keep pads on chest
   - will monitor BP closely
   .
   # Pump: Mildly volume overloaded on examination. Patient has ichemic
   dilated CM with low EF of 15%.  Did require 1.3L NS bolus in the
   setting of recent VT on the floor and.
   - Continue Toresmide 60mg daily
   - Continue BB, eplerenone, [**Last Name (un) **]
   - strict I/Os, daily weights, goal I/O even
   - d/c coumadin
   - uptitrate BB, cut back on [**Last Name (un) **] if BP does not tolerate.
   .
   # Coronaries: Patient's CM is related to ischemia, however no cath
   reports are avail to determine coronary anatomy. CAD s/p CABG x 5 '[**18**]
   - Continue Statin, BB, ASA as tolerated
   .
   # HTN:New hypotension in setting of VT.
   - Cont Coreg, Ramipril, Eplerenone with strict holding parameters
   .
   # HPL: Cont statin
   .
   # COPD: Continue inhalers prn
   .
   # FEN: heart healthy, low salt diet, NPO overnight into monday for
   possible procedure
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with Coumadin
   .
   # CODE: full
   .
   # CONTACT: [**Name (NI) 4198**] [**Telephone/Fax (1) 9960**]
   .
   # DISPO: CCU until ablation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-12-24**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-26 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - around 9PM - VT runs to 140s, shocked x 11, re-amio loaded, drip to
   1, Lidocaine boluses x 2, on lido drio EP came in, increased threshold
   to 160
   Allergies:
   Erythromycin/Sulfisoxazole (Oral) (Ery E-Succ/Sulfisoxazole
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2130-12-25**] 09:00 AM
   Amiodarone - [**2130-12-25**] 08:20 PM
   Lidocaine - [**2130-12-25**] 11:00 PM
   Midazolam (Versed) - [**2130-12-25**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-26**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 70 (70 - 143) bpm
   BP: 96/68(74) {88/51(59) - 134/81(92)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 72.4 kg (admission): 74 kg
   Height: 68 Inch
             Total In:
                                                                  2,617 mL
                                                                    620 mL
   PO:
                                                                  1,620 mL
             TF:
   IVF:
                                                                    997 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                    425 mL
   Urine:
                                                                  3,025 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -408 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: JVP 12cm.
   CARDIAC: PMI laterally displaced, RR, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: CTAB, few crackles at bases bilaterally.
   ABDOMEN: Soft, NT. Mild abdominal distention. No HSM or tenderness.
   EXTREMITIES: No c/c/e.  2+ pulses
   Labs / Radiology
   186 K/uL
   12.8 g/dL
   130 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.5 mEq/L
   20 mg/dL
   98 mEq/L
   133 mEq/L
   38.8 %
   11.4 K/uL
        [image002.jpg]
                            [**2130-12-23**]  12:46 PM
                            [**2130-12-23**]  09:25 PM
                            [**2130-12-24**]  06:06 AM
                            [**2130-12-24**]  12:25 PM
                            [**2130-12-25**]  04:26 AM
                            [**2130-12-25**]  04:31 PM
                            [**2130-12-25**]  08:16 PM
                            [**2130-12-26**]  04:30 AM
   WBC
   12.2
   9.0
   10.2
   11.4
   Hct
   39.5
   37.4
   36.2
   38.8
   Plt
   175
   174
   164
   186
   Cr
   1.2
   1.1
   1.1
   1.2
   1.1
   1.2
   1.2
   Glucose
   156
   105
   133
   108
   102
   115
   130
   Other labs: PT / PTT / INR:20.3/24.7/1.9, Ca++:8.7 mg/dL, Mg++:2.7
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   64 y/o M with a history Ichemic CM with a history of VTach s/p ICD
   placement, s/p three prior ablations presented on [**12-21**] s/p ICD firing
   x6, now transferred to CCU for recurrent VT, hypotension, and
   amiodarone gtt.
   .
   # Rhythm: Patient with three failed VT ablations in past. Pt's
   Interrogation revealed slow VT, but appropriate fire of ICD. The
   patient has failed medical management of with Mexiletine/Tikosyn and
   plan had been to switch to dronedarone but pt has not been able to get
   insurance approval of dronedarone. With recurrent episode on the floor,
   Amiodarone was added. This event is consistent with history of scar and
   not new ischemia as discussed with EP.
   - continue amiodarone gtt per EP recs
   - check LFTs with amiodarone
   - discontinued Mexiletine/Tikosyn
   - plan for VT ablation on [**2130-12-26**]
   - monitor [**Hospital1 **] lytes and keep Mg >2, K >4
   - keep pads on chest
   - will monitor BP closely
   - heart transplant ([**Hospital1 586**] evaled 3 yrs ago) vs. EP -> going for Cath to
   eval for ischemia related arrythmia (stent possible)
   - assess needed for dopa, noted for SBP > 85.
   .
   # Pump: Mildly volume overloaded on examination. Patient has ichemic
   dilated CM with low EF of 15%.  Did require 1.3L NS bolus in the
   setting of recent VT on the floor and.
   - Continue Toresmide 60mg daily
   - Continue BB, eplerenone, [**Last Name (un) **]
   - strict I/Os, daily weights, goal I/O even
   - d/c coumadin
   - uptitrate BB, cut back on [**Last Name (un) **] if BP does not tolerate.
   .
   # Coronaries: Patient's CM is related to ischemia, however no cath
   reports are avail to determine coronary anatomy. CAD s/p CABG x 5 '[**18**]
   - Continue Statin, BB, ASA as tolerated
   .
   # HTN:New hypotension in setting of VT.
   - Cont Coreg, Ramipril, Eplerenone with strict holding parameters
   .
   # HPL: Cont statin
   .
   # COPD: Continue inhalers prn
   .
   # FEN: heart healthy, low salt diet, NPO overnight into monday for
   possible procedure
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with Coumadin
   .
   # CODE: full
   .
   # CONTACT: [**Name (NI) 4198**] [**Telephone/Fax (1) 9960**]
   .
   # DISPO: CCU until ablation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-12-24**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-27 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - shocked x 2 this AM, intubated and intra-aortic balloon pump was
   placed to try to decrease LV work
   - ultimate plan after discussion with Drs. [**Name5 (PTitle) 2830**] & [**Doctor Last Name **] is to tx
   to [**Hospital1 586**] for heart transplant when stable
   - shocked x 3 this PM, dopamine stopped and switched to phenylephrine
   for pressure support
   Allergies:
   Erythromycin/Sulfisoxazole (Oral) (Ery E-Succ/Sulfisoxazole
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Lidocaine - [**2130-12-26**] 08:10 AM
   Fentanyl - [**2130-12-26**] 12:10 PM
   Midazolam (Versed) - [**2130-12-26**] 12:10 PM
   Amiodarone - [**2130-12-26**] 05:15 PM
   Heparin Sodium - [**2130-12-26**] 05:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-27**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 70 (70 - 137) bpm
   BP: 97/39(67) {83/36(61) - 125/75(98)} mmHg
   RR: 20 (11 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 72.4 kg (admission): 74 kg
   Height: 68 Inch
             Total In:
                                                                  2,338 mL
                                                                    990 mL
   PO:
             TF:
   IVF:
                                                                  2,338 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                  1,528 mL
                                                                    480 mL
   Urine:
                                                                  1,528 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    810 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (420 - 500) mL
   Vt (Spontaneous): 721 (0 - 721) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/35/119/25/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 298
   Physical Examination
   GENERAL: Intubated, sedated..
   NECK: JVP 12cm.
   CARDIAC: PMI laterally displaced, RR, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: CTAB, few crackles at bases bilaterally.
   ABDOMEN: Soft, NT. Mild abdominal distention. No HSM or tenderness.
   EXTREMITIES: No c/c/e.  2+ pulses
   Labs / Radiology
   156 K/uL
   11.8 g/dL
   105 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.4 mEq/L
   25 mg/dL
   96 mEq/L
   128 mEq/L
   33.4 %
   11.4 K/uL
        [image002.jpg]
                            [**2130-12-24**]  06:06 AM
                            [**2130-12-24**]  12:25 PM
                            [**2130-12-25**]  04:26 AM
                            [**2130-12-25**]  04:31 PM
                            [**2130-12-25**]  08:16 PM
                            [**2130-12-26**]  04:30 AM
                            [**2130-12-26**]  05:54 PM
                            [**2130-12-26**]  10:10 PM
                            [**2130-12-27**]  04:39 AM
                            [**2130-12-27**]  04:54 AM
   WBC
   9.0
   10.2
   11.4
   11.4
   Hct
   37.4
   36.2
   38.8
   33.4
   Plt
   174
   164
   186
   156
   Cr
   1.1
   1.1
   1.2
   1.1
   1.2
   1.2
   1.5
   TCO2
   31
   27
   26
   Glucose
   105
   133
   108
   102
   115
   130
   112
   105
   Other labs: PT / PTT / INR:16.8/58.1/1.5, ALT / AST:24/22, Lactic
   Acid:1.0 mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   64 y/o M with a history Ichemic CM with a history of VTach s/p ICD
   placement, s/p three prior ablations presented on [**12-21**] s/p ICD firing
   x6, now transferred to CCU for recurrent VT, hypotension, and
   amiodarone gtt.
   .
   # Rhythm: Patient with three failed VT ablations in past. Pt's
   Interrogation revealed slow VT, but appropriate fire of ICD. The
   patient has failed medical management of with Mexiletine/Tikosyn and
   plan had been to switch to dronedarone but pt has not been able to get
   insurance approval of dronedarone. With recurrent episode on the floor,
   Amiodarone was added. This event is consistent with history of scar and
   not new ischemia as discussed with EP.  Due to VT refractory to medical
   management, team now feels that heart transplant is patient
s best
   option; discussed with and accepted by [**Hospital1 586**].
   - continue Amiodarone, lidocaine gtt
   - monitor QID lytes and keep Mg >2, K >4
   - keep pads on chest
   - will monitor BP closely, using neosynephrine for pressor support as
   needed
   - avoiding dopamine as it is arrhythmogenic
   - ultimate plan to tx to [**Hospital1 586**] once stable
   .
   # Pump: Patient has ischemic dilated CM with low EF of 15%.  Currently
   appears euvolemic.
   - Continue Torsemide 60mg daily
   - Continue eplerenone.  Holding BB, [**Last Name (un) **] in setting of pressor
   requirement.
   - strict I/Os, daily weights, goal I/O even
   - on heparin gtt
   .
   # Coronaries: CAD s/p CABG x 5 '[**18**]
   - Continue Statin, ASA
   .
   # HTN: hypotension in setting of VT
   - holding BB, [**Last Name (un) **]
   .
   # HLP: Cont statin
   # COPD: Continue inhalers prn
   # FEN: NPO x meds pending tube feed recs
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx: on heparin gtt
   .
   # CODE: full
   .
   # CONTACT: [**Name (NI) 4198**] [**Telephone/Fax (1) 9960**]
   .
   # DISPO: CCU until ablation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-12-26**] 09:00 AM
   Sheath - [**2130-12-26**] 03:00 PM
   IABP line - [**2130-12-26**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: